US08957070B2
Ethyl 7-[methyl (2-thienylcarbonyl)amino]-1H-indole-2-carboxylate
To a solution of ethyl 7-(methylamino)-1H-indole-2-carboxylate (54 mg) in tetrahydrofuran (3 mL) were added triethylamine (42 μL) and 2-thenoylchloride (44 mg), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated, and the obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:3) to give colorless crystals (71 mg, yield 87%). melting point 193° C.

reactant | ethyl 7-(methylamino)-1H-indole-2-carboxylate | 54 mg | CNC=1C=CC=C2C=C(NC12)C(=O)OCC | C12H14N2O2
reactant | triethylamine | 42 μL | C(C)N(CC)CC | C6H15N
reactant | 2-thenoylchloride | 44 mg | C1(=CC=CS1)C(=O)Cl | C5H3ClOS
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | Ethyl 7-[methyl (2-thienylcarbonyl)amino]-1H-indole-2-carboxylate | 71 mg, yield 87% | CN(C=1C=CC=C2C=C(NC12)C(=O)OCC)C(=O)C=1SC=CC1 | C17H16N2O3S
